US09079866B2
5-(3-Fluoro-2′-{[4-(methylamino)piperidin-1-yl]sulfonyl}biphenyl-4-yl)pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)-N-methylpiperidin-4-amine. MS (ESI): mass calcd. for C22H24FN5O2S, 441.16; m/z found, 442.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.37 (s, 1H), 8.21 (d, J=1.4, 1H), 8.12-8.09 (m, 1H), 7.96 (m, 1H), 7.75-7.70 (m, 1H), 7.65-7.60 (m, 1H), 7.45-7.41 (m, 1H), 7.32-7.30 (m, 1H), 7.28 (s, 1H), 3.49-3.42 (m, 2H), 3.10-3.01 (m, 1H), 2.63 (s, 3H), 2.54-2.42 (m, 2H), 2.00-1.92 (m, 2H), 1.47-1.35 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)-N-methylpiperidin-4-amine | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)NC | C12H17BrN2O2S
product | 5-(3-Fluoro-2′-{[4-(methylamino)piperidin-1-yl]sulfonyl}biphenyl-4-yl)pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)NC | C22H24FN5O2S
